US05990150
1-butyl-3-(1-hexyl-4,6-dimethylindolin-7-yl)urea
7-Amino-4,6-dimethyl-1-hexylindoline (800 mg) was dissolved in chloroform (20 ml) and butyl isocyanate (400 mg) was added, which was followed by stirring at room temperature for 18 hours. Water was added to the reaction mixture, and the mixture was washed with saturated brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent:chloroform-methanol=1:0-50:1) and recrystallized from ethanol to give 450 mg of the title compound.

reactant | 7-Amino-4,6-dimethyl-1-hexylindoline | 800 mg | NC=1C(=CC(=C2CCN(C12)CCCCCC)C)C | C16H26N2
reactant | butyl isocyanate | 400 mg | C(CCC)N=C=O | C5H9NO
reactant | Water | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-butyl-3-(1-hexyl-4,6-dimethylindolin-7-yl)urea | 450 mg | C(CCC)NC(=O)NC=1C(=CC(=C2CCN(C12)CCCCCC)C)C | C21H35N3O
